US07291631B2
To a solution of 3-(1-ethyl-1-methoxy-propyl)-2-methyl-pyridine (0.185 g, 0.884 mmol) in CH2Cl2 (3 mL) was added TFAA (1 mL). The mixture was stirred for 24 h. K2CO3 (0.60 g, 4.3 mmol) in water (10 mL) was added. The aqueous mixture was extracted with CH2Cl2 (4×25 mL), and the combined organic layers were dried over anhydrous Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified by flash chromatography on a silica gel column (3:1 Et2O/CH2Cl2), affording [3-(1-ethyl-1-methoxy-propyl)-pyridin-2-yl]-methanol as a yellow oil (0.111 g, 60%). 1H NMR (CDCl3) δ 0.70 (t, 6H, J=7.5 Hz), 1.76-1.88 (m, 2H), 1.89-2.01 (m, 2H), 3.06 (s, 3H), 4.93 (s, 2H), 7.21 (dd, 1H, J=7.8, 4.8 Hz), 7.56 (dd, 1H, J=7.8, 1.5 Hz), 8.47 (dd, 1H, J=4.8, 1.5 Hz).

reactant | 3-(1-ethyl-1-methoxy-propyl)-2-methyl-pyridine | 0.884 mmol, 0.185 g | C(C)C(CC)(OC)C=1C(=NC=CC1)C | C12H19NO
reactant | TFAA | 1 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | K2CO3 | 4.3 mmol, 0.60 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | [3-(1-ethyl-1-methoxy-propyl)-pyridin-2-yl]-methanol | 0.111 g, 60% | C(C)C(CC)(OC)C=1C(=NC=CC1)CO | C12H19NO2
